US07932288B2
Production of a Drink Containing Ornithine
Each 1.28 kg of ornithine hydrochloride (Commercial name: L-ornithine hydrochloride, Kyowa Hakko Kogyo Co., Ltd.); 3 kg of erythritol (Nikken Kagaku Co., Ltd.); 0.05 kg of citric acid (Kyowa Hi Foods Co., Ltd.); 3 g of artificial sweetener; and 0.06 g of flavor were stirred and dissolved in 50 L of water at solution temperature 70° C. After the pH of the solution was adjusted to 3.3, the solution was sterilized using plate sterilization and filled into bottles. The bottle was sterilized using a pasteurizer to produce a drink.

reactant | ornithine hydrochloride | 1.28 kg | Cl.N[C@@H](CCCN)C(=O)O
reactant | erythritol | 3 kg | C([C@H](O)[C@H](O)CO)O | C4H10O4
reactant | citric acid | 0.05 kg | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | water | 50 L | O | H2O
product | Ornithine | N[C@@H](CCCN)C(=O)O | C5H12N2O2
